US07358386B2
methyl 2-(6-acetyl-5-methoxy-2,3-dihydro-1H-inden-1-yl)butanoate
To a solution of AlCl3 (103 mg, 0.78 mmol) in methylene chloride (2.5 mL) at 0° C., was added acetyl chloride (0.044 mL, 0.63 mmol), followed by the addition of a solution of methyl 5-methoxy-2,3-dihydro-1H-indene-1-yl-butanoate (130 mg, 0.52 mmol) in methylene chloride (2.7 mL) dropwise. The mixture was stirred at 0° C. for 15 minutes. The ice bath was removed and the mixture stirred at rt for 16 hours. The mixture was poured over ice and 4 drops of conc. HCl were added. This mixture was extracted with methylene chloride twice. The combined organic layers were washed with water, 0.05 N NaOH and water. The organic layer was dried, concentrated, and purified by chromatography with 10% EtOAc:hexane to give desired product (103 mg, 68%). Rf=0.28 (4:1 hexane:EtOAc); GC-MS (+Cl): m/z=291 (M+); 1H NMR (DMSO-d6): δ 0.840 (m, 3H), 1.536 (m, 2H), 1.876 (m, 1H), 2.108 (m, 1H), 2.505 (s, 3H), 2.521 (m, 1H), 2.760-2.889 (m, 2H), 3.236 (m, 1H), 3.511 and 3.589 (s, 3H), 3.836 (s, 3H), 7.012 and 7.253 (s, 1H), 7.440 (s, 1H).

reactant | AlCl3 | 0.78 mmol, 103 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 0.63 mmol, 0.044 mL | C(C)(=O)Cl | C2H3ClO
reactant | methyl 5-methoxy-2,3-dihydro-1H-indene-1-yl-butanoate | 0.52 mmol, 130 mg | COC=1C=C2CCC(C2=CC1)C(C(=O)OC)CC | C15H20O3
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.7 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(6-acetyl-5-methoxy-2,3-dihydro-1H-inden-1-yl)butanoate | 103 mg, 68% | C(C)(=O)C1=C(C=C2CCC(C2=C1)C(C(=O)OC)CC)OC | C17H22O4
